US07459563B2
Preparation of dimethyl-[2-(2-methyl-pyridin-4-yl)-vinyl]-amine
11.05 g 2,4-Lutidine (0.1 mol) were dissolved in 50 ml THF. The solution was cooled and stirred, maintaining the temperature at between −70 to −50° C. 81.25 ml nBuLi (0.13 mol) was added over 0.25 hour. The dark red solution was stirred for a further 0.5 hour, then 15.14 ml diethylamine (0.145 mol) was added in one portion producing an orange suspension. After a 0.5 hour, 15.5 ml DMF (0.2 mol) was added. The brown-red solution was stirred for 1 hour then quenched with 50 ml 50% saturated aqueous ammonium chloride solution. Upon warming to ambient temperature, the reaction mixture was extracted with tert. butyl methyl ether (TBME) (3×100 ml), and the combined organic phases were washed with 50 ml H2O, dried over Na2SO4, filtered and concentrated under reduced pressure (45° C./450-20 mbar) providing an orange-red oil (14.8 g, 91%) which was sufficiently pure (Gas Liquid Chromatography (GLC) 98 area %) to be used directly in the next step.

reactant | 2,4-Lutidine | 0.1 mol, 11.05 g | N1=C(C=C(C=C1)C)C | C7H9N
reactant | nBuLi | 0.13 mol, 81.25 ml | [Li]CCCC
reactant | diethylamine | 0.145 mol, 15.14 ml | C(C)NCC | C4H11N
reactant | DMF | 0.2 mol, 15.5 ml | CN(C)C=O | C3H7NO
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | dimethyl-[2-(2-methyl-pyridin-4-yl)-vinyl]-amine | 14.8 g, 91% | CN(C=CC1=CC(=NC=C1)C)C | C10H14N2
